US04636516
After stirring a mixture of 100 ml of pyridine, 6 g of methyl isothiocyanate, and 3 g of 4-(2-aminoacetyl)-2,6-di-tert-butylphenol hydrochloride at room temperature for 2 hours, the resulted mixture was maintained at an inside temperature of 80°-90° C. for 1.5 hours. The reaction mixture was concentrated udner reduced pressure and then the residue was extracted with 100 ml of ethyl acetate. The extract was washed with diluted hydrochloric acid, dried, and concentrated under reduced pressure. The residue was recrystallized from ethanol to provide 0.6 g of 5-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-mercapto-1-methylimidazole.

reactant | methyl isothiocyanate | 6 g | CN=C=S | C2H3NS
reactant | 4-(2-aminoacetyl)-2,6-di-tert-butylphenol hydrochloride | 3 g | Cl.NCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-mercapto-1-methylimidazole | 0.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=CN=C(N1C)S | C18H26N2OS
